US07157464B2
Synthesis of 2-(3,5-Diisopropyl-pyrazol-1-yl)-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone
Protocol T was followed using 3,5-Diisopropyl-1H-pyrazole, K2CO3, 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=1/1) afforded the title compound as white solid. 1H NMR (400 MHz, CDCl3): 6.92–7.0 (m, 2H), 6.80–6.88 (dd, 2H), 5.88 (s, 1H), 4.92 (s, 2H), 3.70–3.80 (t, 4H), 2.90–3.10 (m, 4H), 1.40–1.60 (m, 12H). 13C NMR (400 MHz, CDCl3): 160.6, 158.2, 150.2, 119.2, 118.0, 100.0, 50.8, 50.5, 50.2, 45.2, 42, 28.2, 26.0, 22.4.

reactant | 3,5-Diisopropyl-1H-pyrazole | C(C)(C)C1=NNC(=C1)C(C)C | C9H16N2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C12H14ClFN2O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-(3,5-Diisopropyl-pyrazol-1-yl)-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | C(C)(C)C1=NN(C(=C1)C(C)C)CC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C21H29FN4O
